US08536183B2
(2S)-1-[(2,6-Dimethyl-3-pyridinyl)carbonyl]-2-methyl-4-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine
2,6-Dimethyl-3-pyridinecarboxylic acid (GSK1770624A, Atlantic) (98 mg, 0.65 mmol) and HATU (247 mg, 0.65 mmol) were suspended in DMF (2 ml) and DIPEA (0.170 ml, 0.97 mmol) was added. This mixture was stirred for 40 min at ambient temperature. (3S)-3-Methyl-1-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine (may be prepared as described in Description 2) (100 mg, 0.32 mmol) was added and stirring continued for 3 h. The reaction mixture was partitioned between DCM and sat aq. NaHCO3 solution (10 ml each). The layers were separated and the aqueous was washed with further DCM (2×5 ml). The combined organic layers were concentrated to leave a brown oil. This was purified by MDAP to give the title compound (92 mg) as an orange solid.

reactant | 2,6-Dimethyl-3-pyridinecarboxylic acid | 0.65 mmol, 98 mg | CC1=NC(=CC=C1C(=O)O)C | C8H9NO2
reactant | HATU | 0.65 mmol, 247 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.97 mmol, 0.170 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | (3S)-3-Methyl-1-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine | 0.32 mmol, 100 mg | C[C@H]1CN(CCN1)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | C12H15F3N2O2S
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | (2S)-1-[(2,6-Dimethyl-3-pyridinyl)carbonyl]-2-methyl-4-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine | 92 mg | CC1=NC(=CC=C1C(=O)N1[C@H](CN(CC1)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C)C | C20H22F3N3O3S
